US05157041
A solution of 930 mg of 1-[3(S)-[[N-(tert.butoxycarbonyl)-L-cysteinyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-2(S)-piperidinecarboxamide in 7 ml of trifluoroacetic acid was stirred at 20° C. for 1 hour. The mixture was then evaporated to dryness and the residue was partitioned between dichloromethane and aqueous sodium bicarbonate solution. The organic phase was evaporated to give 650 mg of N-tert.butyl-1-[3(S)-[(L-cysteinyl)amino]-2(R)-hydroxy-4-phenylbutyl]-2(S)-piperidinecarboxamide as a colourless gum; MS: m/e [M+H]+.

reactant | 1-[3(S)-[[N-(tert.butoxycarbonyl)-L-cysteinyl]amino]-2(R)-hydroxy-4-phenylbutyl]-N-tert.butyl-2(S)-piperidinecarboxamide | 930 mg | C(C)(C)(C)OC(=O)N[C@@H](CS)C(=O)N[C@H]([C@@H](CN1[C@@H](CCCC1)C(=O)NC(C)(C)C)O)CC1=CC=CC=C1 | C28H46N4O5S
solvent | trifluoroacetic acid | 7 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-tert.butyl-1-[3(S)-[(L-cysteinyl)amino]-2(R)-hydroxy-4-phenylbutyl]-2(S)-piperidinecarboxamide | 650 mg | C(C)(C)(C)NC(=O)[C@H]1N(CCCC1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](N)CS)=O)O | C23H38N4O3S
